US09212190B2
Into a 25-mL round-bottom flask contained a solution of tert-butyl N-(4-[[(3R)-3-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-ethylcyclohexyl)carbamate (240 mg, 0.42 mmol, 1.00 equiv) in dichloromethane (10 mL) was added hydrochloric acid (5 M, 1 mL) and the resulting solution was stirred for 5 hr at RT. The reaction was then quenched saturated aqueous sodium bicarbonate, extracted with 3×40 mL of dichloromethane. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 120 mg (80%) of 2-[(3R)-12-[(4-amino-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol as a yellow oil. MS: 362 [M+H]+.

reactant | tert-butyl N-(4-[[(3R)-3-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-ethylcyclohexyl)carbamate | 0.42 mmol, 240 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)(CC)NC(OC(C)(C)C)=O | C30H49N3O4SSi
reactant | hydrochloric acid | 5 M, 1 mL | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-[(3R)-12-[(4-amino-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol | 120 mg, 80% | NC1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCO)CC | C19H27N3O2S
